US06313312B1
3-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine
To a solution of 3-hexyl-6-methyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexan-2-one (Preparation 11, 10.7 g, 33.86 mmol) in tetrahydrofuran (500 ml) under nitrogen, was added dropwise over 1 h at room temperature a 1.0 M solution of lithium aluminium hydride in tetrahydrofuran (100 ml, 100 mmol). The mixture was heated to 50° C. for 2 h, then cooled to room temperature. Water (50 ml) was carefully added, and the mixture was stirred for 1 h, before the tetrahydrofuran was removed in vacuo. The aqueous residue was acidified by the addition of 2N hydrochloric acid (20 ml) and then basified with the addition of 2N sodium hydroxide solution (25 ml). The mixture was extracted with ethyl acetate (3×250 ml). The combined extracts were dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in ethanol (450 ml), Raney nickel (500 mg) was added, and the mixture was placed under an atmosphere of hydrogen (2 atm, 203 kPa) and stirred at 50° C. for 24 hours. The mixture was filtered through Celite™, and concentrated in vacuo. The residue was purified by silica column chromatography, eluting with 80:20:2 ethyl acetate/methanol/ammonia solution (0.880). Product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless oil (3.3 g, 36%).

reactant | 3-hexyl-6-methyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexan-2-one | 33.86 mmol, 10.7 g | C(CCCCC)N1C(C2C(C2C1)(C1=CC(=CC=C1)[N+](=O)[O-])C)=O | C18H24N2O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 50 ml | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mmol, 100 ml | O1CCCC1 | C4H8O
product | 3-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine | 3.3 g, 36% | C(CCCCC)N1CC2C(C2C1)(C)C=1C=C(C=CC1)N | C18H28N2
